US08242153B2
d) (S)-2-Amino-6,6,6-trifluoro-5-phenyl-hexan-1-ol
To a suspension of lithium aluminum hydride (0.267 g) in tetrahydrofuran (30 ml) was added a solution of (S)-2-amino-6,6,6-trifluoro-5-phenyl-hexanoic acid methyl ester (0.97 g) in tetrahydrofuran (3 ml) and the mixture was stirred for 2 hours at 50° C. Sodium sulphate solution (2M, 0.3 ml) was added and the mixture was filtered through Celite. The solvent was evaporated and the residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=98:2) to yield a light yellow liquid, (0.50 g, 57%); MS (ISP): 248.1 ((M+H)+).

reactant | lithium aluminum hydride | 0.267 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-amino-6,6,6-trifluoro-5-phenyl-hexanoic acid methyl ester | 0.97 g | COC([C@H](CCC(C(F)(F)F)C1=CC=CC=C1)N)=O | C13H16F3NO2
reactant | Sodium sulphate | 2M, 0.3 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (S)-2-Amino-6,6,6-trifluoro-5-phenyl-hexan-1-ol | N[C@H](CO)CCC(C(F)(F)F)C1=CC=CC=C1 | C12H16F3NO
